US07223766B2
1-Butyl-4-chloro-6-(2-fluoro-phenyl)-3-methyl-1H-pyrazolo[3,4-d]pyrimidine
1-Butyl-6-(2-fluoro-phenyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one (1.23 g, 4.1 mmole) was dissolved in phosphorous oxychloride (15 ml) and heated to reflux overnight. Removed excess phosphorous oxychloride under vacuum, treated residue with ice water, extracted product into ethyl acetate, washed with water, sat'd sodium chloride, dried over sodium sulfate (anh.) and removed solvent to give crude product. Chromatographed product on silica gel eluting with chloroform to give 723 mg purified product (yield: 55%).

reactant | 1-Butyl-6-(2-fluoro-phenyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 4.1 mmole, 1.23 g | C(CCC)N1N=C(C2=C1N=C(NC2=O)C2=C(C=CC=C2)F)C | C16H17FN4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Butyl-4-chloro-6-(2-fluoro-phenyl)-3-methyl-1H-pyrazolo[3,4-d]pyrimidine | yield: 55% | C(CCC)N1N=C(C=2C1=NC(=NC2Cl)C2=C(C=CC=C2)F)C | C16H16ClFN4
